US07893284B2
A solution of 2-(3-Benzyloxy-2-ethyl-13-methyl-6,7,8,9,11,12,13,14,15,16-decahydro-cyclopenta[a]phenanthren-17-ylidene)-ethanol (0.62 g, 1.5 mmol) in 10 ml dry THF was cooled to 0° C. under nitrogen. NaH (0.08 g, 2 mmol of NaH 60% dispersion in mineral oil) was added portion wise and the solution stirred for 30 minutes before CH3I (0.19 ml, 3 mmol) was added dropwise. The solution was then allowed to warm to room temperature and stirred for 18 hours. After addition of water (20 ml) the organics were extracted with ethylacetate. The organic layer was washed with water, brine, dried over MgSO4 and the solvents were evaporated under vacuum. The crude oil was purified by chromatography (hexane/ethylacetate 20/1) to give 3-benzyloxy-2-ethyl-17-(2-methoxy-ethylidene)-13-methyl-7,8,9,11,12,13,14,15,16,17-decahydro-6H-cyclopenta[a]phenanthrene, 0.59 g (91%), as a colourless oil; 1H NMR (CDCl3, 270 MHz): 0.84 (s, 3H, CH3), 1.24 (t, J=7.4 Hz, 3H, CH3), 1.26-1.66 (m, 6H), 1.82-2.02 (m, 3H), 2.20-2.51 (m, 3H), 2.70 (q, J=7.4 Hz, 2H, CH2), 2.87 (m, 2H, H6), 3.36 (s, 3H, CH3O), 3.94 (m, 2H, CH2OMe), 5.06 (s, 2H, CH2Ph), 5.27 (m, 1H, CHCH2OH), 6.66 (s, 1H, ArH), 7.15 (s, 1H, ArH), 7.31-7.48 (m, 5H, Ph).

reactant | 2-(3-Benzyloxy-2-ethyl-13-methyl-6,7,8,9,11,12,13,14,15,16-decahydro-cyclopenta[a]phenanthren-17-ylidene)-ethanol | 1.5 mmol, 0.62 g | C(C1=CC=CC=C1)OC=1C(=CC=2C3CCC4(C(CCC4C3CCC2C1)=CCO)C)CC | C29H36O2
reactant | NaH | 2 mmol, 0.08 g | [H-].[Na+]
reactant | CH3I | 3 mmol, 0.19 ml | CI | CH3I
reactant | water | 20 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-benzyloxy-2-ethyl-17-(2-methoxy-ethylidene)-13-methyl-7,8,9,11,12,13,14,15,16,17-decahydro-6H-cyclopenta[a]phenanthrene | C(C1=CC=CC=C1)OC=1C(=CC=2C3CCC4(C(CCC4C3CCC2C1)=CCOC)C)CC | C30H38O2
